### PR TITLE
[Merged by Bors] - feat: strengthen Cayley-Hamilton

### PR DESCRIPTION
**Pull request by artie2000**
* Strengthen the statement of Cayley-Hamilton to bound the degree of the annihilating polynomial by the number of generators
* Generalise `minpoly.natDegree_le` to non-free modules: `minpoly.natDegree_le_spanFinrank`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 1]
```diff
@@ -220,6 +229,16 @@ lemma spanRank_bot : (⊥ : Ideal R).spanRank = 0 := Submodule.spanRank_eq_zero_
 @[simp]
 lemma spanFinrank_bot : (⊥ : Submodule R M).spanFinrank = 0 := by simp [spanFinrank]
 
+@[simp]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/SpanRank.lean]: This and the following can be tagged `Nontriviality`

File: Mathlib/FieldTheory/Minpoly/Free.lean [hunk 2]
```diff
@@ -0,0 +1,44 @@
...
+module
+
+public import Mathlib.FieldTheory.Minpoly.Basic
+public import Mathlib.LinearAlgebra.FreeModule.StrongRankCondition
+public import Mathlib.LinearAlgebra.Matrix.Charpoly.LinearMap
+
+/-!
+# Minimal polynomials on a free algebra
+
+This file proves the bound on the degree of a minimal polynomial on a free algebra.
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Minpoly/Free.lean]:
```suggestion
This file proves the bound on the degree of a minimal polynomial on an algebra that is finite and free as module.
```
Or something similar (the free algebra over `A` is the polynomial ring, surely not finite as `A`-module).

File: Mathlib/FieldTheory/Minpoly/Free.lean [hunk 3]
```diff
@@ -0,0 +1,44 @@
...
+variable (A) in
+theorem natDegree_le_spanFinrank :
+    (minpoly A x).natDegree ≤ (⊤ : Submodule A B).spanFinrank := by
+  rcases LinearMap.exists_monic_and_natDegree_eq_and_aeval_eq_zero _ (Algebra.lmul A _ x) with
+    ⟨f, f_monic, f_deg, f_aeval⟩
+  refine f_deg ▸ (natDegree_le_natDegree <| minpoly.min _ _ f_monic ?_)
+  rw [aeval_algHom_apply] at f_aeval
+  exact Algebra.lmul_injective (R := A) <| by simpa using f_aeval
+
+variable [Nontrivial A] [Module.Free A B]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Minpoly/Free.lean]:
```suggestion
variable [Module.Free A B]
```
Unless I am confused this should trivially hold.

File: Mathlib/LinearAlgebra/Matrix/Charpoly/LinearMap.lean [hunk 4]
```diff
@@ -201,31 +202,43 @@ end
 `R`-endomorphism `φ` of an `R`-module `M` such that `φ(M) ≤ I • M` for some ideal `I`, there
 exists some `n` and some `aᵢ ∈ Iⁱ` such that `φⁿ + a₁ φⁿ⁻¹ + ⋯ + aₙ = 0`.
 
-This is the version found in Eisenbud 4.3, which is slightly weaker than Matsumura 2.1
-(this lacks the constraint on `n`), and is slightly stronger than Atiyah-Macdonald 2.4.
+This is the version found in Matsumura 2.1, which is stronger than those in Eisenbud 4.3 and
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/LinearMap.lean]: Since you are at it, can you cite the entries in References.bib?

Comment (artie2000) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/LinearMap.lean]: I don't think Matsumura Commutative Ring Theory appears in refs.bib, and I haven't checked the Eisenbud or Atiyah-Macdonald references (I just assumed the previous text was accurate).

Comment (artie2000) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/LinearMap.lean]: have now checked the references

**Comment by artie2000** [comment]
The context of this PR changed since #36421 got merged. It no longer generalises the statement of `minpoly.natDegree_le`, although it does move the proof earlier and prove a more general version of the result.

**Comment by riccardobrasca** [comment]
Can you update the PR description?

**Comment by artie2000** [comment]
> Can you update the PR description?

I already changed both the title and description to reflect the changed context. I've re-edited it now to hopefully be a little clearer.

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 5]
```diff
@@ -189,6 +189,15 @@ theorem FG.exists_span_set_encard_eq_spanFinrank {p : Submodule R M} (h : p.FG)
   rw [Set.encard, ENat.card, spanFinrank, hs₁, this]
   simp
 
+/-- Constructs a generating finset with cardinality equal to the `spanFinrank` of the submodule
+  when the submodule is finitely generated. -/
+theorem FG.exists_span_finset_card_eq_spanFinrank {p : Submodule R M} (h : p.FG) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/SpanRank.lean:194]: I may be confused, but wasn't this in another PR?

File: Mathlib/FieldTheory/Normal/Basic.lean [hunk 6]
```diff
@@ -6,10 +6,9 @@ Authors: Kenny Lau, Thomas Browning, Patrick Lutz
 module
 
 public import Mathlib.FieldTheory.Extension
-public import Mathlib.FieldTheory.Normal.Defs
-public import Mathlib.GroupTheory.Solvable
+public import Mathlib.FieldTheory.Minpoly.Finite
 public import Mathlib.FieldTheory.SplittingField.Construction
-public import Mathlib.LinearAlgebra.Charpoly.Basic
+public import Mathlib.GroupTheory.Solvable
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Normal/Basic.lean:11]: This seems a strange import to have here.

File: Mathlib/LinearAlgebra/Matrix/Charpoly/LinearMap.lean [hunk 7]
```diff
@@ -198,34 +199,46 @@ theorem Matrix.isRepresentation.toEnd_surjective :
...
+(since := "2026-04-10")] alias
+LinearMap.exists_monic_and_coeff_mem_pow_and_aeval_eq_zero_of_range_le_smul :=
+  LinearMap.exists_monic_and_natDegree_eq_and_coeff_mem_pow_and_aeval_eq_zero
+
+theorem LinearMap.exists_monic_and_natDegree_eq_and_aeval_eq_zero
+    [Module.Finite R M] (f : Module.End R M) :
+    ∃ p : R[X], p.Monic ∧ p.natDegree = (⊤ : Submodule R M).spanFinrank ∧
+                Polynomial.aeval f p = 0 :=
+  (LinearMap.exists_monic_and_natDegree_eq_and_coeff_mem_pow_and_aeval_eq_zero R f ⊤ (by simp)).imp
+    fun _ h => h.imp_right (And.imp_right And.right)
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/LinearMap.lean]:
```suggestion
    fun _ h ↦ h.imp_right (And.imp_right And.right)
```

File: Mathlib/FieldTheory/Minpoly/Finite.lean [hunk 8]
```diff
@@ -0,0 +1,43 @@
...
+module
+
+public import Mathlib.FieldTheory.Minpoly.Basic
+public import Mathlib.LinearAlgebra.Matrix.Charpoly.LinearMap
+public import Mathlib.RingTheory.FiniteType
+
+/-!
+# Minimal polynomials on a finite algebra
+
+This file proves the bound on the degree of a minimal polynomial on a finite algebra.
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Minpoly/Finite.lean]:
```suggestion
This file proves the bound on the degree of a minimal polynomial on an algebra that is finite as a module.
```

File: Mathlib/Algebra/Module/SpanRank.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Algebra/Module/SpanRank.lean:194]: You're probably thinking of #37919, and no it did not have this lemma.

File: Mathlib/FieldTheory/Normal/Basic.lean (hunk 6 above)
Comment (artie2000) [reply Mathlib/FieldTheory/Normal/Basic.lean:11]: idk what to tell you - it was already an import for this file (see line 8) and min_imports says it's necessary
I just put the imports in alphabetical order

File: Mathlib/FieldTheory/Minpoly/Finite.lean (hunk 8 above)
Comment (artie2000) [reply Mathlib/FieldTheory/Minpoly/Finite.lean]: "finite algebra" is the standard wording, isn't it?
finite as an algebra is "finitely generated algebra"

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Minpoly/Finite.lean]: I always find this a little confusing, but yes, the terminology is normally used. I just think it's cheap to use a version that is 100% clear (for example how do you say finite as a set?). Anyway it's not very important, keep the version you prefer.

File: Mathlib/FieldTheory/Normal/Basic.lean (hunk 6 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/Normal/Basic.lean:11]: OK, if it's already there don't worry.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by artie2000** [comment]
thanks

bors r+

**Comment by artie2000** [comment]
bors retry
